US04892947
4-Chlorobenzylamine hydrochloride
Into a mixture comprising 7.30 g of sodium borohydride, 6.00 g of 4-chlorobenzamide and 100 ml of 1,4-dioxane, a mixed solution of 11.58 g of acetic acid and 30 ml of 1,4-dioxane, was dropwise added under stirring and cooling with ice over a period of 30 minutes. After the dropwise addition, the reaction mixture was refluxed under stirring for two hours. After cooling, ice pieces were gradually added to decompose the excess reducing agent, and the solvent was distilled off under reduced pressure. Then, the residue was extracted with chloroform. The extract was washed with a saturated sodium chloride aqueous solution, and dried over sodium sulfate, and then the solvent was distilled off to a concentration of about 80 ml. The concentrated solution was cooled with ice, and 10 ml of a dioxane solution of 6N HCl was dropwise added thereto. The precipitated solid substance was treated with methanol-ether to obtain 3.16 g of the above identified compound as a colorless powder. The NMR spectrum of the free amine is as follows:

reactant | sodium borohydride | 7.30 g | [BH4-].[Na+]
reactant | 4-chlorobenzamide | 6.00 g | ClC1=CC=C(C(=O)N)C=C1 | C7H6ClNO
reactant | acetic acid | 11.58 g | C(C)(=O)O | C2H4O2
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 4-Chlorobenzylamine hydrochloride | Cl.ClC1=CC=C(CN)C=C1 | InChI=1S/C7H8ClN.ClH/c8-7-3-1-6(5-9)2-4-7;/h1-4H,5,9H2;1H
